US08580710B2
To a solution of acetic acid 2-{3-[2-(3,5-dimethyl-phenyl)-1-(5,6,7,8-tetrahydro-naphthalen-1-yl)-ethyl]-thioureido}-ethyl ester (2.60 g) in THF (30 ml) was added a solution of lithium hydroxide (294 mg) in water (30 ml) and the mixture stirred for 6 hours at room temperature. The reaction mixture was poured into ethyl acetate (300 ml) and washed with potassium carbonate solution (5 wt % in water). The solution was dried over sodium sulphate. Removal of the solvent in vacuo yielded 1-[2-(3,5-dimethylphenyl)-1-(5,6,7,8-tetrahydronaphthalen-1-yl)-ethyl]-3-(2-hydroxyethyl)-thiourea in 2.28 g (97%) yield.

reactant | acetic acid 2-{3-[2-(3,5-dimethyl-phenyl)-1-(5,6,7,8-tetrahydro-naphthalen-1-yl)-ethyl]-thioureido}-ethyl ester | 2.60 g | CC=1C=C(C=C(C1)C)CC(C1=CC=CC=2CCCCC12)NC(NCCOC(C)=O)=S | C25H32N2O2S
reactant | lithium hydroxide | 294 mg | [OH-].[Li+]
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 1-[2-(3,5-dimethylphenyl)-1-(5,6,7,8-tetrahydronaphthalen-1-yl)-ethyl]-3-(2-hydroxyethyl)-thiourea | CC=1C=C(C=C(C1)C)CC(C1=CC=CC=2CCCCC12)NC(=S)NCCO | C23H30N2OS
